US07482469B2
A: 4′-methyl-3-nitro-biphenyl
Under an inert atmosphere was added 3-nitrobenzene boronic acid (6.3 mmol) and sodium carbonate (11.6 mmol) to water (8 mL), toluene (8 mL) and ethanol (8 mL) and stirred for 5 minutes. p-Bromotoluene (5.8 mmol) and tetrakis(triphenylphosphine)palladium (0.3 mmol) added and heated to 70° C. for 7 hours. Concentrated under reduced pressure and extracted into chloroform (3×20 mL). The organics were then washed with 10% sodium bicarbonate (10 mL), water (10 mL) and brine (10 mL) before drying over sodium sulfate, filtering and evaporating to dryness. The residue was then purified by column chromatography and taken onto the next stage.

reactant | 3-nitrobenzene boronic acid | 6.3 mmol | [N+](=O)([O-])C=1C=C(C=CC1)B(O)O | C6H6BNO4
reactant | sodium carbonate | 11.6 mmol | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 8 mL | O | H2O
reactant | p-Bromotoluene | 5.8 mmol | BrC1=CC=C(C=C1)C | C7H7Br
catalyst | tetrakis(triphenylphosphine)palladium | 0.3 mmol | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethanol | 8 mL | C(C)O | C2H6O
solvent | toluene | 8 mL | C1(=CC=CC=C1)C | C7H8
product | 4′-methyl-3-nitro-biphenyl | CC1=CC=C(C=C1)C1=CC(=CC=C1)[N+](=O)[O-] | C13H11NO2
